US09029421B2
Preparation of 4-benzyloxy-3-formylamino-α-[N-benzyl-N-(1-methyl-2-p-methoxy phenylethyl)aminomethyl]benzyl alcohol
3-amino-4-benzyloxy-α-[N-benzyl-N-(1-methyl-2-p-methoxyphenylethyl)aminomethyl]benzyl alcohol (100 gms, 0.2 M), toluene 0.2 lit and 0.2 lit THF, were charged in a reactor. The reaction mass was cooled to 15° C. and 35 ml of 3:2 formic acid-acetic anhydride was introduced maintaining temperature below 20° C. The reaction mass was further stirred at 20-30° C. for 1 hour and concentrated under reduced pressure. The residue obtained was dissolved in toluene (0.65 lit) and basified with liquor ammonia. The organic layer was separated, washed with water and concentrated under reduced pressure below 35° C. to yield the title compound. (100 gms, 94.66%)

reactant | 3-amino-4-benzyloxy-α-[N-benzyl-N-(1-methyl-2-p-methoxyphenylethyl)aminomethyl]benzyl alcohol | 0.2 M, 100 gms | NC=1C=C(C(CN(C(CC2=CC=C(C=C2)OC)C)CC2=CC=CC=C2)O)C=CC1OCC1=CC=CC=C1 | C32H36N2O3
reactant | THF | C1CCOC1 | C4H8O
reactant | formic acid-acetic anhydride | 35 ml | C(C)(=O)OC=O | C3H4O3
reactant | ammonia | N | H3N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-benzyloxy-3-formylamino-α-[N-benzyl-N-(1-methyl-2-p-methoxy phenylethyl)aminomethyl]benzyl alcohol | C(C1=CC=CC=C1)OC1=C(C=C(C(CN(C(CC2=CC=C(C=C2)OC)C)CC2=CC=CC=C2)O)C=C1)NC=O | C33H36N2O4
